US07528158B2
To a solution of crude (5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetic acid (0.14 g) in DMF, was added TBTU (0.20 g), followed by N,N-ethyldiisopropylamine (0.40 mL) and after 10 minutes methylamine (0.32 mL of a 2 M solution) was added. The reaction was stirred overnight and was quenched with 2N HCl (aq.) and extracted with EtOAc. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated. Flash column chromatography of the residue over silica gel afforded the desired N-methyl-2-(5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetamide (0.040 g) as a yellow solid. MS (ESI−):249.1 ([M−H]−).

reactant | (5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetic acid | 0.14 g | [N+](=O)([O-])C=1C=C2C(NN(C2=CC1)CC(=O)O)=O | C9H7N3O5
reactant | TBTU | 0.20 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | methylamine | CN | CH5N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-methyl-2-(5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetamide | 0.040 g | CNC(CN1NC(C2=CC(=CC=C12)[N+](=O)[O-])=O)=O | C10H10N4O4
